US06770414B2
Synthesis of Poly(tert-butyl 5-norbornene-2-carboxylate/2-hydroxyethyl 5-norbornene-2-carboxylate/5-norbornene-2-carboxylic acid/maleic anhydride)
To tetrahydrofuran or toluene was added 0.5 to 0.95 mole of tert-butyl 5-norbornene-2-carboxylate, 0.05 to 0.8 mole of 2-hydroxyethyl 5-norbornene-2-carboxylate, 0.01 to 0.2 mole of 5-norbornene-2-carboxylic acid, 0.5 to 1 mole of maleic anhydride and 0.5 to 10 g of 2,2′-azobisisobutyronitrile (AIBN).

reactant | tert-butyl 5-norbornene-2-carboxylate | 0.5 to 0.95 mole | C12C(CC(C=C1)C2)C(=O)OC(C)(C)C | C12H18O2
reactant | 2-hydroxyethyl 5-norbornene-2-carboxylate | 0.05 to 0.8 mole | C12C(CC(C=C1)C2)C(=O)OCCO | C10H14O3
reactant | 5-norbornene-2-carboxylic acid | 0.01 to 0.2 mole | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
reactant | maleic anhydride | 0.5 to 1 mole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2,2′-azobisisobutyronitrile | 0.5 to 10 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl 5-norbornene-2-carboxylate 2-hydroxyethyl 5-norbornene-2-carboxylate 5-norbornene-2-carboxylic acid maleic anhydride | C12C(CC(C=C1)C2)C(=O)OC(C)(C)C.C12C(CC(C=C1)C2)C(=O)OCCO.C12C(CC(C=C1)C2)C(=O)O.C1(\C=C/C(=O)O1)=O | InChI=1S/C12H18O2.C10H14O3.C8H10O2.C4H2O3/c1-12(2,3)14-11(13)10-7-8-4-5-9(10)6-8;11-3-4-13-10(12)9-6-7-1-2-8(9)5-7;9-8(10)7-4-5-1-2-6(7)3-5;5-3-1-2-4(6)7-3/h4-5,8-10H,6-7H2,1-3H3;1-2,7-9,11H,3-6H2;1-2,5-7H,3-4H2,(H,9,10);1-2H
